US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-(2-chloroallylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate
A solution of 50 mg (0.138 mmol) of N-methylmitomycin A in 6 ml of anhydrous methanol was stirred with 0.2 ml of 2-chloroallylamine. The progress of the reaction was checked periodically by TLC and appeared to be complete in 3 hours. The solvent was then evaporated under reduced pressure and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column with a mixture of chloroform and ethyl acetate (1:1 by volume) was evaporated under reduced pressure. Recrystallization from a mixture of chloroform and hexane gave 20 mg (34% yield) of the desired product as purple-colored crystals having a melting point of 71°-72° C. (decomposing) and providing the following analysis:

reactant | N-methylmitomycin A | 0.138 mmol, 50 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4C)OC | C17H21N3O6
reactant | 2-chloroallylamine | 0.2 ml | ClC(CN)=C | C3H6ClN
solvent | methanol | 6 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-(2-chloroallylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 20 mg, 34% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCC(=C)Cl)C)=O)CC1C2N1C)OC | InChI=1S/C18H22ClN3O4.CH3NO2/c1-8(19)5-20-13-9(2)15(24)14-12(16(13)25)10(7-23)18(26-4)17-11(21(17)3)6-22(14)18;2-1(3)4/h10-11,17,20,23H,1,5-7H2,2-4H3;2H2,(H,3,4)
